US05169868
N-(2-Propyl)-N-methylpropargylamine hydrochloride (MPPP).
2-Bromopropane (3.08 g, 25 mmoles) and N-methylpropargylamine (3.45 g, 50 mmoles) in absolute ethanol (50 mL) were heated at reflux for 48 h. On treatment of the ethereal solution of the free base with ethanolic hydrochloride acid, an oil first separated, and then white needles subsequently precipitated very slowly from the supernatant (16% yield of white needles, recrystallized from methanol-ether), m.p.=155°-156° C. The oil and the needles gave identical mass spectra.

reactant | 2-Bromopropane | 25 mmoles, 3.08 g | BrC(C)C | C3H7Br
reactant | N-methylpropargylamine | 50 mmoles, 3.45 g | CNCC#C | C4H7N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(2-Propyl)-N-methylpropargylamine hydrochloride | 16% yield | Cl.CC(C)N(C)CC#C | InChI=1S/C7H13N.ClH/c1-5-6-8(4)7(2)3;/h1,7H,6H2,2-4H3;1H
